Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Heavy vaginal bleeding

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old G4P1 with heavy vaginal bleeding for 4 days prior to 
admission. She reported large clots and changing a pad 4 times 
per hour over that time. Mild cramps. She endorsed dizziness and 
fatigue. Denied chest pain, shortness of breath. She had never 
had bleeding this heavy before. Her LMP was ___. She 
normally has regular, monthly menses. 

 
Past Medical History:
POB/GYNH: 
- G3P1, full term SVD, TAb/D+C x2, Ectopic pregnancy s/p right 
lsc salpingectomy
- Denies abnormal Paps
- Hx chlamydia in past 
- Sexually active with one male partner, not using 
contraception.
- Denies hx fibroids, ovarian cysts

PMH: Denies

PSURGH: 
- LSC right salpingectomy

Meds: Motrin prn

All: NKDA
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
Physical Exam on admission: 
VS: T-98.4  HR-113 -> 96  BP-137/52  RR-19  O2-100% 
Gen: NAD
CV: RRR, HR approx 100 bpm
Abd: soft, nontender
Pelvic: normal appearing external genitalia, interlabial folds, 
urethral meatus. Speculum exam reveals normal vagina approx 50 
cc of clot clear from vault, slow ooze of bright red blood from 
the cervix. 
 
Pertinent Results:
___ 01:00PM   HCT-26.5*#
___ 12:15AM   HGB-6.2* HCT-20.2*
___ 09:40PM   HCG-LESS THAN 
___ 06:00PM   GLUCOSE-96 UREA N-11 CREAT-0.7 SODIUM-142 
POTASSIUM-3.9 CHLORIDE-105 TOTAL CO2-33* ANION GAP-8
___ 06:00PM   estGFR-Using this
___ 06:00PM   WBC-12.4* RBC-3.21* HGB-7.7*# HCT-25.2* 
MCV-79* MCH-23.9*# MCHC-30.3*# RDW-13.9
___ 06:00PM   NEUTS-61.1 ___ MONOS-3.4 EOS-0.7 
BASOS-0.5
___ 06:00PM   PLT COUNT-314
___ 05:35PM URINE  HOURS-RANDOM
___ 05:35PM URINE  UCG-NEGATIVE
___ 05:35PM URINE  UHOLD-HOLD
___ 05:35PM URINE  COLOR-YELLOW APPEAR-SLCLDY SP ___
___ 05:35PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 05:35PM URINE  RBC->182* WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-3
___ 05:35PM URINE  MUCOUS-MOD

Pelvic u/s (prelim): 10 cm uterus, several small fibroids likely 
present in the uterus, the largest of which is seen in the 
posterior fundus. Endometrial strip = 4mm. 
 
Brief Hospital Course:
On ___, Ms. ___ presented to the emergency department 
with heavy vaginal bleeding, thought to be due to anovulatory 
bleeding. She was admitted to the Gynecology service on ___ 
to monitor her symptoms and for a blood transfusion for a 
hematocrit of 20.2. She was hemodynamically stable on admission. 


Her hospital course was uncomplicated. She received 2 units of 
packed red blood cells and was started on medroxyprogesterone 
acetate 10 mg PO DAILY. Her follow up hematocrit following the 
transfusion was 26.5. 

On hospital day one, she remained hemodynamically stable and was 
discharged home with instructions to schedule outpatient follow 
up.
 
Medications on Admission:
Motrin PRN
 
Discharge Medications:
1. Necon ___ (28) (norethindrone-ethin estradiol) ___ mg-mcg 
oral daily  
Take 3 pills daily from ___
Take 2 pills daily from ___
Take 1 pill daily ___ onward 
RX *norethindrone-ethin estradiol [Necon ___ (28)] 1 mg-35 mcg 
1 tablet(s) by mouth daily Disp #*2 Box Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abnormal uterine bleeding

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the gynecology service after an episode of 
abnormal uterine bleeding for which you required transfusion of 
two units of packed red blood cells. We are sending you home 
with a birth control pill taper (this has hormones that will 
help regulate your bleeding).
Take 3 pills daily from ___
Take 2 pills daily from ___

Take zofran (odansetron) as needed for nausea that may occur as 
a result of taking these pills. 
Take 1 pill daily from ___ onwards 
 
Followup Instructions:
___